US04642240
Preparation of 3-amino-5-(N-furfurylamino)benzoic Acid
This compound was prepared from 3,5-diaminobenzoic acid and 2-furfuraldehyde according to the procedure of Example 18.

reactant | 3,5-diaminobenzoic acid | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | 2-furfuraldehyde | C1=COC(=C1)C=O | C5H4O2
product | 3-amino-5-(N-furfurylamino)benzoic Acid | NC=1C=C(C(=O)O)C=C(C1)NCC1=CC=CO1 | C12H12N2O3
